US04426388
To a stirred solution of 5-hydroxy-2-benzothiazolesulfonamide (2.3 g., 0.01 mole), 4-dimethylaminopyridine (100 mg., catalyst) and triethylamine (1.4 ml., 0.01 mole) in dimethylformamide (20 ml.) is added cyclopentaneacetyl chloride (1.6 g., 0.01 mole). The reaction mixture is stirred at 25° C. for 2 hours, poured into ice water and excess hydrochloric acid and extracted into ether. The organic extract is washed with water and dried over magnesium sulfate. The ether is evaporated and the residue chromatographed on silica gel (130 g. 70-230 mesh) to give 2-sulfamoyl-5-benzothiazolyl cyclopentaneacetate.

reactant | 5-hydroxy-2-benzothiazolesulfonamide | 0.01 mole, 2.3 g | OC=1C=CC2=C(N=C(S2)S(=O)(=O)N)C1 | C7H6N2O3S2
reactant | triethylamine | 0.01 mole, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopentaneacetyl chloride | 0.01 mole, 1.6 g | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-sulfamoyl-5-benzothiazolyl cyclopentaneacetate | C1(CCCC1)CC(=O)OC=1C=CC2=C(N=C(S2)S(N)(=O)=O)C1 | C14H16N2O4S2
